US08084620B2
Step 2 A solution of 3-bromo-2-methylbenzaldehyde (200 mg, 1.01 mmol) and indolin-2-one (134 mg, 1.01 mmol) in ethanol (10 mL) was treated with piperidine (0.099 mL, 1.01 mmol) and heated at 80-85° C. After 15.25 h, the solution was cooled to rt and concentrated. The residue was purified by column chromatography (eluting with a gradient from 80:20 to 30:70 hexane-ethyl acetate) to provide 3-(3-bromo-2-methylbenzylidene)indolin-2-one as a bright yellow solid (94.9 mg, 30%). 1H NMR (400 MHz, chloroform-d) δ 7.89 (1H, br. s.), 7.85 (1H, s), 7.64 (1H, d, J=7.9 Hz), 7.47 (1H, d, J=7.7 Hz), 7.20 (1H, td, J=7.7, 1.1 Hz), 7.07-7.16 (2H, m), 6.87 (1H, d, J=7.9 Hz), 6.81 (1H, td, J=7.6, 1.0 Hz), 2.43 (3H, s). Mass spectrum m/z 314, 316 (M+H)+.

reactant | 3-bromo-2-methylbenzaldehyde | 1.01 mmol, 200 mg | BrC=1C(=C(C=O)C=CC1)C | C8H7BrO
reactant | indolin-2-one | 1.01 mmol, 134 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | piperidine | 1.01 mmol, 0.099 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-(3-bromo-2-methylbenzylidene)indolin-2-one | 94.9 mg, 30% | BrC=1C(=C(C=C2C(NC3=CC=CC=C23)=O)C=CC1)C | C16H12BrNO
